US06451724B1
In a 0.25 l bulb were placed 10 g (45 mmol) of N,N-diphenylhydrazinium chloride, 6.0 g (45 mmol) of 2-indanone and 50 ml of ethanol. The thus obtained mixture was heated at reflux for 4 hours and it was poured into water; the residual mixture was extracted with CH2Cl2 (150 ml) and the solvent was evaporated. The wanted compound was isolated by passing the obtained mixture through a column of silicagel, eluting with benzene/hexane=1:2. The resulting solution was evaporated and treated with 10 ml of hexane, obtaining the precipitation of crystals. Said crystals were separated, washed with hexane (10 ml) and finally dried, thus yielding 5.4 g of N-phenyl-5,6-dihydroindeno[2,1-b]indole (yield=45%).

reactant | N,N-diphenylhydrazinium chloride | 45 mmol, 10 g | [Cl-].C1(=CC=CC=C1)[NH+](N)C1=CC=CC=C1
reactant | 2-indanone | 45 mmol, 6.0 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-phenyl-5,6-dihydroindeno[2,1-b]indole | 5.4 g, yield=45% | C1(=CC=CC=C1)N1C2=C(C3=CC=CC=C13)C1=CC=CC=C1C2 | C21H15N
